US06610711B2
2-(4,4-Dimethylcyclohexyl)-1-ethanol
To a solution of ethyl 2-(4,4-dimethylcyclohexyl)acetate (Preparation 14, 2.0 g, 10 mmol) in tetrahydrofuran (20 ml) under an atmosphere of nitrogen at 0° C. was added lithium aluminium hydride (1.0M solution in tetrahydrofuran, 11 ml, 11 mmol) and the reaction mixture was allowed to warm to room temperature overnight. The mixture was poured onto ice (300 g), acidified to pH 1 with 1N aqueous hydrochloric acid and extracted with dichloromethane (200 ml). The organic extract was dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a pale yellow oil (1.45 g, 93%).

reactant | ethyl 2-(4,4-dimethylcyclohexyl)acetate | 10 mmol, 2.0 g | CC1(CCC(CC1)CC(=O)OCC)C | C12H22O2
reactant | lithium aluminium hydride | 11 mmol, 1.0M, 11 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4,4-Dimethylcyclohexyl)-1-ethanol | 1.45 g, 93% | CC1(CCC(CC1)CCO)C | C10H20O
